US04196216
(15) 3-[(α-methyl-4-chlorobenzylidene amino)oxy] propionic acid.
A solution of 2.4 g of sodium hydroxide in 55 ml of 85% ethanol was mixed with 6,78 g of 4'-chloroacetophenone oxime and 2.88 g of acrylic acid. The mixture was then refluxed for 2.5 hours, subsequently diluted with 10 ml of water, and concentrated by evaporation in a vacuum after 2 hours. The residue was dissolved in 50 ml of ether and 50 ml of water, and the layers were separated. The water layer was extracted with 50 ml of ether and then acidified with 40 ml of 2 N hydrochloric acid. The acid solution was extracted with 100 ml of ether and the ethereal solution was dried over sodium sulfate. Then the solvent was distilled off and its last traces were removed together with higher boiling substances at a pressure of 0.01 mm and a temperature of 50° C. The residue was crystallized from petroleum ether. Melting point 80° C.-83° C.

reactant | sodium hydroxide | 2.4 g | [OH-].[Na+]
reactant | 4'-chloroacetophenone oxime | 6,78 g | ClC1=CC=C(C=C1)C(C)=NO | C8H8ClNO
reactant | acrylic acid | 2.88 g | C(C=C)(=O)O | C3H4O2
solvent | ethanol | 55 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 3-[(α-methyl-4-chlorobenzylidene amino)oxy] propionic acid | CC(C1=CC=C(C=C1)Cl)=NOCCC(=O)O | C11H12ClNO3
